Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Oral bleeding
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ male with no significant PMH who
presents with mouth bleeding.

Reports waking up this morning and seeing blood on his pillow 
and
sheets. When into the bathroom and saw blood in the mouth with
multiple blood ulcers on the tongue on the right side of the
mouth. No other source of bleeding from the nose or blood in the
urine or stools.

Prior to the symptoms today, has been having a nonspecific
illness for over 3 weeks with fatigue, congestion, sore throat,
swollen lymph nodes, and headache (which comes and goes). On
___ went to ___ office for evaluation, was prescribed
nortriptyline for presumed tension type headaches. Labs at that
point showed normal CBC (PLT 224), elevated CRP 19.8 mg/L, ESR 
18
mm, and normal BMP.

Initially presented to ___ ED. There, found to
have platelet count of 0. Given 1U of platelets after
consultation with Hematology. Transferred to ___ due to 
concern
for possible TTP and/or lymphoma. Imaging showed no evidence of
intracranial bleeding.

In ___ ED, vitals were normal with slight tachycardia, HR
___. Hematology consulted and felt that presentation most
suggestive of ITP. The interpretation of the peripheral smear 
was
atypical lymphs without platelets and normal myeloid maturation,
no blasts. Recommended giving dexamethasone 40 mg PO x4 days and
IVIG 1 g/kg. No prophylactic platelet transfusion. Also,
initiated work up for viral cause including EBV, CMV, hepatitis 
B
and C, and HIV (pending test at ___.

Patient received 1L NS IVF, diphenhydramine 50 mg IV x1,
acetaminophen 1000 mg PO x1, dexamethasone 40 mg PO x1.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative.
 
Past Medical History:
- hypercholesterolemia
- glucose intolerance
- Dupuytren's contracture of left hand
- obstructive sleep apnea
- cholecystectomy
- tonsillectomy
 
Social History:
___
Family History:
No malignancy or autoimmune conditions. Parents both lived to be
in their ___.

 
Physical Exam:
ADMISSION EXAM:
VITALS: ___ 2205 Temp: 98.5 PO BP: 124/78 HR: 89 RR: 18 O2
sat: 94% O2 delivery: RA 
GENERAL: Alert and in no apparent distress.
EYES: Anicteric, pupils equally round.  Injected conjunctivae
with some hemorrhage in the left eye.
ENT: Ears and nose without visible erythema, masses, or trauma,
some crusted blood in nares. Oropharynx shows dark blood around
the gum lines, blood blisters on the tongue, roof of the mouth,
below the tongue, and the right cheek.  No signs of active
bleeding.
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored.
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM.
GU: No suprapubic fullness or tenderness to palpation.
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs.
SKIN: No ulcerations noted. Diffuse petechiae in both legs
beneath the knees.
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout.
PSYCH: pleasant, appropriate affect.

DISCHARGE EXAM:
97.9 115/72 67 18
fading petechaie on ___
some bruises from phlebotomy on forearms
no purpura in oropharynx or nares
ctab
ambulating
calm and attentive and not confused
 
Pertinent Results:
ADMISSION LABS
--------------
___ 03:26PM BLOOD WBC-10.7* RBC-4.34* Hgb-13.7 Hct-41.0 
MCV-95 MCH-31.6 MCHC-33.4 RDW-12.7 RDWSD-44.2 Plt Ct-<5
___ 03:26PM BLOOD Neuts-18* Bands-0 Lymphs-61* Monos-4* 
Eos-0 Baso-0 ___ Myelos-1* Other-16* AbsNeut-1.93 
AbsLymp-6.53* AbsMono-0.43 AbsEos-0.00* AbsBaso-0.00*
___ 03:26PM BLOOD Glucose-105* UreaN-16 Creat-0.8 Na-136 
K-4.0 Cl-97 HCO3-28 AnGap-11
___ 03:26PM BLOOD ALT-129* AST-78* LD(LDH)-418* CK(CPK)-150 
AlkPhos-150* TotBili-1.1 DirBili-0.3 IndBili-0.8
___ 03:26PM BLOOD Albumin-3.9 Calcium-8.5 Phos-2.7 Mg-1.9
___ 03:26PM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG HAV Ab-POS* 
IgM HAV-NEG
___ 03:26PM BLOOD HCV Ab-NEG
___ 03:52PM BLOOD Lactate-1.7

IMAGING
-------
___ CT HEAD WO CONTRAST ___  1:___vidence of acute large vessel territorial infarct or
hemorrhage.  Unremarkable examination.  No imaging findings to
explain the patient's symptoms.

___ CT CHEST W CONTRAST; CT ABDOMEN PELVIS W
CONTRAST; CT SOFT TISSUE NECK W CONTRAST ___  4:49 ___ 
1.  There is no cervical, axillary, hilar, or mediastinal
lymphadenopathy.
2.  There are focal areas of patchy ground-glass opacity in the
right upper and right lower lobe that favor inflammatory
etiology.  Consider follow-up with noncontrast CT of the chest 
in
___ weeks to ensure resolution.
3. Pancolonic diverticulosis.
4. Compression fracture of indeterminate age at T9 with loss of
height of the superior endplate.
5. Nonspecific stranding of the mesenteric in the middle-left
abdomen with several prominent lymph nodes.
This is called "Misty mesentery."  This finding is relatively
common and nonspecific, has a broad differential diagnosis and 
is
of questionable clinical significance.  Imaging surveillance is
not favored ; would suggest routine clinical follow-up and if 
the
patient develops signs and symptoms of malignancy, such as
lymphoma, imaging can be pursued at that time. 

MICROBIOLOGY
------------

___ 3:26 pm Blood (EBV)

                            **FINAL REPORT ___

   ___ VIRUS VCA-IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS EBNA IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS VCA-IgM AB (Final ___: 
      NEGATIVE <1:10 BY IFA. 
      INTERPRETATION: RESULTS INDICATIVE OF PAST EBV INFECTION. 
      In most populations, 90% of adults have been infected at 
sometime
      with EBV and will have measurable VCA IgG and EBNA 
antibodies.
      Antibodies to EBNA develop ___ weeks after primary 
infection and
      remain present for life. Presence of VCA IgM antibodies 
indicates
      recent primary infection. 

___ 3:26 pm Blood (CMV AB)

                            **FINAL REPORT ___

   CMV IgG ANTIBODY (Final ___: 
      NEGATIVE FOR CMV IgG ANTIBODY BY EIA. 
      <4 AU/ML. 
      Reference Range:  Negative < 4 AU/ml, Positive >= 6 AU/ml. 


   CMV IgM ANTIBODY (Final ___: 
      POSITIVE FOR CMV IgM ANTIBODY BY EIA. 
      INTERPRETATION:  SUGGESTIVE OF PRIMARY INFECTION. 
      IgM antibody may persist for 6 months or longer after 
primary
      infection and may reappear during reactivation. 
      Greatly elevated serum protein with IgG levels ___ mg/dl 
may cause 
      interference with CMV IgM results. 

DISCHARGE LABS
--------------

___ 07:30AM BLOOD WBC-6.4 RBC-3.06* Hgb-9.6* Hct-28.6* 
MCV-94 MCH-31.4 MCHC-33.6 RDW-14.5 RDWSD-46.3 Plt Ct-18*
 
Brief Hospital Course:
___ year old male with no significant history who presents with 
mouth bleeding and is found to have severe isolated 
thrombocytopenia, likely caused by ITP.

Active Issues + Action Items:
# Immune Thrombocytopenic Purpura
# Oral bleeding
Cause of thrombocytopenia seems consistent with ITP. Also mild 
leukopenia and anemia. Received 1U platelets at ___ without 
effect is also suggestive of a destruction process. ___ be drug 
or infection (given viral symptomology recently) related rather 
than primary immune process. Hematology feels no need for 
prophylactic platelet transfusion unless further evidence of 
bleeding. Despite poor correlation between platelet count and 
bleeding risk, his profoundly low platelet count puts him at 
risk for life-threatening bleeding. Smear showed large granular 
lymphocytes so there is some concern for large cell leukemia, 
flow cytometry sent (negative for lymphoproliferative disorder). 
 He is CMV positive, with high viral load, ID consulted for 
possible treatment (CMV-associated ITP can be refractory).  
Patient received four days of dexamethasone and two doses of 
IVIg.  Home nortriptyline is being held to avoid any possible 
trigger, but may be restarted when discussed at his outpatient 
oncology appointment. 

He was given Valgancyclovir on ___ and the next days, his 
platelets improved and were 18 on discharge and rising for past 
48hrs prior to discharge.  He will take a 14d course of 
valganclilovir. 

He has Heme follow up and PCP ___ on ___ and will have repeat 
CBC performed on that day to monitor trend in PLT recovery.  Dr. 
___ spoke with PCP ___ ___nd 
nature of diagnosis and treatment.  

# OSA: Wears CPAP nightly at home, which is being held to avoid 
any further bleeding. He will discuss when this can be restarted 
at his outpatient hematology appointment. 

>30min on discharge coordination
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Nortriptyline 10 mg PO QHS 

 
Discharge Medications:
1.  ValGANCIclovir 900 mg PO Q12H 
RX *valganciclovir 450 mg 2 tablet(s) by mouth every twelve (12) 
hours Disp #*44 Tablet Refills:*0 
2. HELD- Nortriptyline 10 mg PO QHS  This medication was held. 
Do not restart Nortriptyline until cleared by doctors that it is 
not related to blood disorder

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Thrombocytopenia
Neutropenia 
CMV infection
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you during your recent 
hospitalization.  You came to the hospital due to bleeding noted 
in your mouth.  Further testing showed that you had a virus 
called CMV.  When you were given medicine for this, your 
platelet count improved.  You are now being discharged.

It is important that you continue to take your medications as 
prescribed and follow up with the appointments listed below.

Important warning symptoms including gross bleeding, purple 
lesions in mouth, gums, lips, spotty red flat bumps or purple 
lesions on torso or extremities (similar to what you had), nose 
bleeds that do not stop, urinating blood or clot.

Do not start new contact aggressive type activities until 
cleared by your doctors.
We wish you the best in your recovery, 
Your ___ Team 

 
Followup Instructions:
___